US08426631B2
3b) Preparation of N-ethyl-N′-(4-{2-[methoxyimino]cyclohexyloxy}-2,5-dimethyl-phenyl)-N-methylformamidine
At from 0 to 5° C., 239 mg (2.13 mmol) of potassium tert-butoxide and 26 mg 18-crown-6 (0.10 mmol) were added a little at a time and with stirring to 200 mg (0.97 mmol) of N-ethyl-N′-(4-hydroxy-2,5-dimethylphenyl)-N-methylformamidine (cf. WO 2007/031513) in 3 ml of DMSO, and stirring was continued for about 15 minutes. At from 0 to 5° C., a solution of 313 mg (1.94 mmol) of 2-chlorocyclohexanone O-methyl oxime in 0.5 ml of DMSO was added to this mixture with stirring, and stirring was continued for about 20 hours at from 20 to 25° C. With cooling and a little at a time, 50 ml of water were added, and the mixture was extracted with MTBE. The combined organic phases were dried and then freed from the solvent. Cheomatography on alumina using cyclohexane/MTBE mixtures gave 100 mg of the title compound.

reactant | potassium tert-butoxide | 2.13 mmol, 239 mg | CC(C)([O-])C.[K+]
reactant | 18-crown-6 | 0.10 mmol, 26 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | N-ethyl-N′-(4-hydroxy-2,5-dimethylphenyl)-N-methylformamidine | 0.97 mmol, 200 mg | C(C)N(C=NC1=C(C=C(C(=C1)C)O)C)C | C12H18N2O
reactant | 2-chlorocyclohexanone O-methyl oxime | 1.94 mmol, 313 mg | CON=C1C(CCCC1)Cl | C7H12ClNO
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
solvent | DMSO | 0.5 ml | CS(=O)C | C2H6OS
solvent | water | 50 ml | O | H2O
product | N-ethyl-N′-(4-{2-[methoxyimino]cyclohexyloxy}-2,5-dimethyl-phenyl)-N-methylformamidine | 100 mg | C(C)N(C=NC1=C(C=C(C(=C1)C)OC1C(CCCC1)=NOC)C)C | C19H29N3O2
